US08980905B2
4-Nitrophenyl 7-difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylate
7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylic acid (344 mg) was dissolved in dry DMF (3 mL). 4-Nitrophenol (226 mg) Ethyl-dimethylaminopropylcarbodiimide hydrochloride (312 mg) and N,N-Dimethyl-4-aminopyridine (198 mg) was added. After stirring at room temperature for 20 hours, aqueous work up with tert-Butyl methyl ether and chromatography of the organics in a gradient from 0 to 40% EtOAc in pentanes afforded the title compound as an oil.

reactant | 7-Difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylic acid | 344 mg | FC(OC1=CC=C(C2=C1OC1(CCSCC1)O2)C(=O)O)F | C13H12F2O5S
reactant | 4-Nitrophenol | 226 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | tert-Butyl methyl ether | COC(C)(C)C | C5H12O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | N,N-Dimethyl-4-aminopyridine | 198 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-Nitrophenyl 7-difluoromethoxy-2′,3′,5′,6′-tetrahydro-spiro[1,3-benzodioxole-2,4′-(4H)-thiopyran]-4-carboxylate | FC(OC1=CC=C(C2=C1OC1(CCSCC1)O2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])F | C19H15F2NO7S
